US07560546B2
7-Cyano-3-(morpholin-4-ylsulfonyl)-1H-indole-2-carboxamide
To a stirring suspension of CuCN (35 mg, 0.39 mmol, 1.25 equiv) and 7-Amino-3-(morpholin-4-ylsulfonyl)-1H-indole-2-carboxamide (100 mg, 0.31 mmol, 1.0 equiv) in 3 mL of DMSO was added dropwise tert-butyl nitrite (110 μL, 0.92 mmol, 3.0 equiv). After stirring for 18 hours, the title compound was obtained by preparative reversed phase HPLC. Proton NMR for the product was consistent with the titled compound. ESI+MS: 335.3 [M+H]+.

reactant | CuCN | 0.39 mmol, 35 mg, 1.25 equiv | C(#N)[Cu]
reactant | 7-Amino-3-(morpholin-4-ylsulfonyl)-1H-indole-2-carboxamide | 0.31 mmol, 100 mg, 1.0 equiv | NC=1C=CC=C2C(=C(NC12)C(=O)N)S(=O)(=O)N1CCOCC1 | C13H16N4O4S
reactant | tert-butyl nitrite | 0.92 mmol, 110 μL, 3.0 equiv | N(=O)OC(C)(C)C | C4H9NO2
solvent | DMSO | 3 mL | CS(=O)C | C2H6OS
product | 7-Cyano-3-(morpholin-4-ylsulfonyl)-1H-indole-2-carboxamide | C(#N)C=1C=CC=C2C(=C(NC12)C(=O)N)S(=O)(=O)N1CCOCC1 | C14H14N4O4S
